US05280032
40.0 g of 1-acetoxy-1-(3-chlorophenyl)-2-(2-tert-butoxyethoxy)ethane was dissolved in 40 ml of methylene chloride. To the solution was added 80 ml of trifluoroacetic acid with ice cooling. The mixture was stirred for 12 hours at room temperature. After the completion of the reaction, the solvent was removed by distillation under reduced pressure. The residue was mixed with 100 ml of toluene. The solvent was further removed by distillation under reduced pressure. The residue thus obtained was dissolved in a mixture of 90 ml of ethanol and 10 ml of water. To the solution was added 10.7 g of sodium hydrogencarbonate at room temperature. The mixture was adjusted to pH 6-7 with a saturated aqueous sodium hydrogencarbonate solution, and then concentrated to about a half volume under reduced pressure. To the concentrate was added 100 ml of ethyl acetate. The organic layer was separated. The aqueous layer was extracted with 50 ml of ethyl acetate. The extract was combined with the previously separated organic layer. The combined organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene/ethyl acetate=3/1) to obtain 19.4 g of oily 1-acetoxy-1-(3-chlorophenyl)-2-(2-hydroxyethoxy)ethane.

reactant | 1-acetoxy-1-(3-chlorophenyl)-2-(2-tert-butoxyethoxy)ethane | 40.0 g | C(C)(=O)OC(COCCOC(C)(C)C)C1=CC(=CC=C1)Cl | C16H23ClO4
reactant | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | 10.7 g | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 1-acetoxy-1-(3-chlorophenyl)-2-(2-hydroxyethoxy)ethane | 19.4 g | C(C)(=O)OC(COCCO)C1=CC(=CC=C1)Cl | C12H15ClO4
